US05053326
B) Biotin labelling
Histone H1 was biotinylated to different degrees with increasing amounts of BHSE. 5 μg BHSE (dissolved in 10 μl DMF), 25 μg BHSE (in 10 μl DMF) and 250 μg BHSE in 10μl DMF were added to three solutions containing the same amount of histone H1 (1 mg in 300 μl of 50 mM NaHCO3) and incubated for 1 hour at 20° C. After dialysis against 5 mM sodium phosphate (pH 6.8) the three samples are stored at -20° C. The concentrations of the biotin-labelled histone H1 solutions are determined by comparison with unmodified histone H1 by SDS-polyacrylamide gel electrophoresis. The number of biotin residues in the three preparations was estimated by the tritium marker contained in BHSE and was found to be between 2.7 and 20 per histone H1 molecule.

reactant | BHSE | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
reactant | BHSE | 10 μl, 5 μg | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
reactant | BHSE | 10 μl, 25 μg | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
reactant | BHSE | 250 μg | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
solvent | DMF | 10μl | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 50 mM, 300 μl | C(=O)(O)[O-].[Na+]
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
